US05498728
A mixture of N-benzyloxycarbonyl-(L)-isoleucyl-(L)-tryptophanol (0.7 g) in ethanol (30 ml)-tetrahydrofuran (20 ml), palladium-carbon (5%, 0.5 g) was subjected catalytic hydrogenation at room temperature under 1 atmospheric pressure. After the palladium-carbon was filtered off, the filtrate was concentrated under reduced pressure to yield an oily substance. This oily substance was dissolved in dichloromethane (15 ml)-tetrahydrofuran (5 ml), and m-methylphenyl isocyanate (0.225 g) was added at 4° C. After stirring at room temperature for 1.5 hours, the reaction mixture was poured over chloroform-methanol. After the insoluble substances were filtered off, the filtrate was concentrated under reduced pressure, and the residual solid was recrystallized from dichloromethane-methanol-hexane to yield N-(3-methylphenylcarbamoyl)-(L)-isoleucyl-(L)-tryptophanol (0.43 g, 61%).

reactant | N-benzyloxycarbonyl-(L)-isoleucyl-(L)-tryptophanol | 0.7 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)CO | C25H31N3O4
reactant | m-methylphenyl isocyanate | 0.225 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(3-methylphenylcarbamoyl)-(L)-isoleucyl-(L)-tryptophanol | 0.43 g, 61% | CC=1C=C(C=CC1)NC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)CO | C25H32N4O3
